* hitkit post processing done
************************************************************************
* auCdl Netlist:
* 
* Library Name:  Potentiostat
* Top Cell Name: 7_Calibration_current
* View Name:     schematic
* Netlisted on:  May 30 13:07:37 2026
************************************************************************

*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Potentiostat
* Cell Name:    Inverter
* View Name:    schematic
************************************************************************

.SUBCKT Inverter A GNDA Q VDDA
*.PININFO A:B GNDA:B Q:B VDDA:B
MM_i_0 Q A GNDA GNDA nmos4 W=0.4u L=0.35u M=1
MM_i_1 Q A VDDA VDDA pmos4 M=1 L=0.35u W=0.7u
.ENDS

************************************************************************
* Library Name: Potentiostat
* Cell Name:    7_Calibration_current
* View Name:    schematic
************************************************************************

.SUBCKT 7_Calibration_current Calib_curr GNDA S<3> S<2> S<1> S<0> VDDA
+ curr
*.PININFO Calib_curr:B GNDA:B S<3>:B S<2>:B S<1>:B S<0>:B VDDA:B curr:B
MMP24 P1 Vmc D1 VDDA pmos4 W=3u L=10u M=2
MMP7 Vmc Vmc Vm3 VDDA pmos4 W=3u M=2 L=10u
MMP19<0> Vm3 Vm3 Vm3 VDDA pmos4 L=10u M=1 W=3u
MMP19<1> Vm3 Vm3 Vm3 VDDA pmos4 L=10u M=1 W=3u
MMP19<2> Vm3 Vm3 Vm3 VDDA pmos4 M=1 L=10u W=3u
MMP19<3> Vm3 Vm3 Vm3 VDDA pmos4 M=1 L=10u W=3u
MMP19<4> Vm3 Vm3 Vm3 VDDA pmos4 L=10u M=1 W=3u
MMP19<5> Vm3 Vm3 Vm3 VDDA pmos4 W=3u M=1 L=10u
MMP23 P2 Vmc D2 VDDA pmos4 W=3u M=2 L=10u
MMP14 Calib_curr S0n P1 VDDA pmos4 W=2u L=1u M=1
MMP3<0> D2 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP3<1> D2 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP3<2> D2 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP3<3> D2 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP3<4> D2 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP3<5> D2 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP3<6> D2 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP3<7> D2 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP3<8> D2 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP3<9> D2 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP3<10> D2 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP3<11> D2 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP3<12> D2 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP3<13> D2 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP3<14> D2 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP3<15> D2 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP3<16> D2 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP3<17> D2 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP3<18> D2 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP3<19> D2 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP6 Calib_curr S1n P2 VDDA pmos4 W=2u L=1u M=1
MMP5 Calib_curr S2n P3 VDDA pmos4 M=1 L=1u W=2u
MMP4 Calib_curr S3n P4 VDDA pmos4 W=2u M=1 L=1u
MMP2<0> D3 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP2<1> D3 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP2<2> D3 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP2<3> D3 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP2<4> D3 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP2<5> D3 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP1<0> D4 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP1<1> D4 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP21 P4 Vmc D4 VDDA pmos4 L=10u M=2 W=3u
MMP8<0> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<1> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<2> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<3> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<4> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<5> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<6> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<7> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<8> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<9> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<10> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<11> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<12> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<13> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<14> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<15> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<16> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<17> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<18> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<19> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<20> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<21> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<22> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<23> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<24> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<25> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<26> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<27> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<28> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<29> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<30> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<31> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<32> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<33> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<34> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<35> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<36> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<37> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<38> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<39> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<40> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<41> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<42> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<43> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<44> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<45> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<46> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<47> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<48> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<49> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<50> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<51> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<52> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP8<53> D1 Vm3 VDDA VDDA pmos4 M=1 L=10u W=3u
MMP8<54> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<55> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<56> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<57> D1 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP8<58> D1 Vm3 VDDA VDDA pmos4 L=10u M=1 W=3u
MMP8<59> D1 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMP22 P3 Vmc D3 VDDA pmos4 W=3u L=10u M=2
MMP0<0> Vm3 Vm3 VDDA VDDA pmos4 W=3u M=1 L=10u
MMP0<1> Vm3 Vm3 VDDA VDDA pmos4 W=3u L=10u M=1
MMN2<0> Vm1 Vm1 Vm1 GNDA nmos4 L=4u M=1 W=1u
MMN2<1> Vm1 Vm1 Vm1 GNDA nmos4 W=1u L=4u M=1
MMN20<0> o1 Vm1 GNDA GNDA nmos4 W=1u M=1 L=4u
MMN20<1> o1 Vm1 GNDA GNDA nmos4 W=1u L=4u M=1
MMN1 P1 S<0> Calib_curr GNDA nmos4 W=5u L=1u M=2
MMN0 P2 S<1> Calib_curr GNDA nmos4 W=5u M=1 L=1u
MMN15 P3 S<2> Calib_curr GNDA nmos4 L=1u M=1 W=5u
MMN17 P4 S<3> Calib_curr GNDA nmos4 W=5u L=1u M=1
MMN7<0> curr curr Vm1 GNDA nmos4 W=1u M=4 L=4u
MMN7<1> curr curr Vm1 GNDA nmos4 M=4 L=4u W=1u
MMN11<0> Vm1 Vm1 GNDA GNDA nmos4 W=1u M=1 L=4u
MMN11<1> Vm1 Vm1 GNDA GNDA nmos4 W=1u M=1 L=4u
MMN11<2> Vm1 Vm1 GNDA GNDA nmos4 L=4u M=1 W=1u
MMN11<3> Vm1 Vm1 GNDA GNDA nmos4 W=1u L=4u M=1
MMN19 Vmc curr o1 GNDA nmos4 L=4u M=4 W=1u
XI12 S<2> GNDA S2n VDDA / Inverter isoVoltagePW="isoVoltagePW=-7" isoVoltage="isoVoltage=50"
+ isoType="isoType=1"
XI13 S<3> GNDA S3n VDDA / Inverter isoVoltagePW="isoVoltagePW=-7" isoVoltage="isoVoltage=50"
+ isoType="isoType=1"
XI6 S<0> GNDA S0n VDDA / Inverter isoVoltagePW="isoVoltagePW=-7" isoVoltage="isoVoltage=50"
+ isoType="isoType=1"
XI11 S<1> GNDA S1n VDDA / Inverter isoVoltagePW="isoVoltagePW=-7" isoVoltage="isoVoltage=50"
+ isoType="isoType=1"
.ENDS

